US07884109B2
2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one.
A solution of trans-4-(2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-8-oxo-7,8-dihydropurin-9-yl)cyclohexyl 1H-imidazole-1-carboxylate (30 mg) in DMSO (5 ml) was treated with concentrated HCl (1 ml). The mixture was heated at 50° C. for 3 hours. The mixture was diluted with EtOAc and made basic with 3N NaOH (10 ml) The organic layer was washed three times with brine, dried over Na2SO4, filtered, and concentrated to provide 20 mg of the title compound. 1H-NMR (300 MHz, CD3OD) δ 10.5 (s, 1H), 8.8 (dd, 1H), 8.6 (s, 1H), 8.1 (dd, 1H), 7.7 (td, 1H), 4.6 (m, 1H), 4.7 (m, 1H), 4.0 (m, 1H), 2.7 (m, 2H), 2.3 (m, 2H), 2.1 (m, 2H), 1.7 (m, 2H).

reactant | trans-4-(2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-8-oxo-7,8-dihydropurin-9-yl)cyclohexyl 1H-imidazole-1-carboxylate | 30 mg | N1(C=NC=C1)C(=O)O[C@@H]1CC[C@H](CC1)N1C2=NC(=NC=C2NC1=O)N1C=NC2=C1C=C(C=C2)F | C22H19FN8O3
reactant | HCl | 1 ml | Cl | ClH
reactant | NaOH | 3N, 10 ml | [OH-].[Na+]
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one | 20 mg | FC=1C=CC2=C(N(C=N2)C2=NC=C3NC(N(C3=N2)[C@@H]2CC[C@H](CC2)O)=O)C1 | C18H17FN6O2
